US07981874B2
1,1-dimethylethyl {3-[({4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}carbonyl)amino]biphenyl-4-yl}carbamate (17 g, 31 mmol) and hydrazine hydrate (3.01 mL, 62.1 mmol) were stirred in refluxing EtOH (135 mL) for 5 hours. Room temperature was attained and the white precipitate removed by filtration and washed with EtOH. The filtrate was concentrated in vacuo and purified by MPLC (10% [MeOH+1% NH4OH]-DCM) to give 1,1-dimethylethyl [3-({[4-(aminomethyl)phenyl]carbonyl}amino)biphenyl-4-yl]carbamate as a white solid. 1H NMR (d6-DMSO, 600 MHz) δ 9.86 (s, 1H), 8.77 (s, 1H), 7.90 (d, J=7.8 Hz, 2H), 7.85 (d, J=1.8 Hz, 1H), 7.62 (m, 3H), 7.49 (m, 3H), 7.44 (t, J=7.5 Hz, 2H), 7.33 (t, J=7.5 Hz, 1H), 3.79 (s, 2H), 1.45 (s, 9H).

reactant | 1,1-dimethylethyl {3-[({4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]phenyl}carbonyl)amino]biphenyl-4-yl}carbamate | 31 mmol, 17 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)C(=O)NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C33H29N3O5
reactant | hydrazine hydrate | 62.1 mmol, 3.01 mL | O.NN
solvent | EtOH | 135 mL | CCO | C2H6O
product | 1,1-dimethylethyl [3-({[4-(aminomethyl)phenyl]carbonyl}amino)biphenyl-4-yl]carbamate | NCC1=CC=C(C=C1)C(=O)NC=1C=C(C=CC1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H27N3O3
